US08017630B2
2-(4-Dimethylamino-4-phenylcyclohexyl)-N-phenethylacetamide hydrochloride (Example 32)
2-(4-Dimethylamino-4-phenylcyclohexyl)-N-phenethylacetamide (220 mg, 0.6 mmol) was dissolved in ethyl methyl ketone with gentle heating and chlorotrimethylsilane (0.113 ml, 0.9 mmol) was added. After 1.5 h it was possible to isolate a colourless, hygroscopic solid in a yield of 80% (191 mg).

reactant | 2-(4-Dimethylamino-4-phenylcyclohexyl)-N-phenethylacetamide | 0.6 mmol, 220 mg | CN(C1(CCC(CC1)CC(=O)NCCC1=CC=CC=C1)C1=CC=CC=C1)C | C24H32N2O
reactant | chlorotrimethylsilane | 0.9 mmol, 0.113 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | ethyl methyl ketone | CC(=O)CC | C4H8O
product | 2-(4-Dimethylamino-4-phenylcyclohexyl)-N-phenethylacetamide hydrochloride | yield of 80% | Cl.CN(C1(CCC(CC1)CC(=O)NCCC1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C24H32N2O.ClH/c1-26(2)24(22-11-7-4-8-12-22)16-13-21(14-17-24)19-23(27)25-18-15-20-9-5-3-6-10-20;/h3-12,21H,13-19H2,1-2H3,(H,25,27);1H
